741 Operational Amplifier
*SPICE Netlist generated by Advanced Sim server on 12/06/2002 11:23:47 AM

*Schematic Netlist:
BB N7 N9 I=I(VB)*10.61E6-I(VC)*10E6+I(VE)*10E6+I(VLP)*10E6-I(VLN)*10E6
BGND N9 0 V=V(VCC)*.5+V(VEE)*.5
C1 N2 N3 4.664pF
C2 N5 N7 20pF
DC OUT N16 1N914
DE N15 OUT 1N914
DLN N12 N11 1N914
DLP N11 N13 1N914
DP VEE VCC 1N914
GA N5 0 N2 N3 137.7E-6
GCM 0 N5 N1 N6 2.574E-9
VHLIM N7 N10 0V
HLIM N11 0 VHLIM 1k
IEE N1 VEE 10.16E-6
Q1 N2 INVERTING N4 2N2222A
Q2 N3 0 N18 2N2222A
R2 N5 N14 100k
RC1 VCC N2 7.959k
RC2 N3 VCC 7.957k
RE1 N4 N1 2.74k
RE2 N18 N1 2.74k
REE N9 N1 19.69Meg
RF INVERTING OUT 100k
RI INPUT INVERTING 10k
RL OUT 0 25k
RO1 N10 OUT 150
RO2 N6 N7 150
RP VCC VEE 18.11k
VB N14 0 0V
VC VCC N16 2.6V
VE N15 VEE 2.6V
VLN N12 0 -25V
VLP N13 0 +25V
Vcc VCC 0 +12V
Vee VEE 0 -12V
Vin INPUT 0 DC 0 SIN(0 1 10k 0 0) AC 1 0

.SAVE 0 INPUT INVERTING N1 N10 N11 N12 N13 N14 N15 N16 N18 N2 N3 N4 N5 N6 N7 N9
.SAVE OUT VCC VEE IEE[v] VB#branch VC#branch Vcc#branch VE#branch Vee#branch
.SAVE VHLIM#branch Vin#branch VLN#branch VLP#branch @VB[z] @VC[z] @Vcc[z] @VE[z]
.SAVE @Vee[z] @VHLIM[z] @Vin[z] @VLN[z] @VLP[z] @C1[i] @C2[i] @DC[id] @DE[id] @DLN[id]
.SAVE @DLP[id] @DP[id] @Q1[ib] @Q1[ic] @Q1[ie] @Q2[ib] @Q2[ic] @Q2[ie] @R2[i] @RC1[i]
.SAVE @RC2[i] @RE1[i] @RE2[i] @REE[i] @RF[i] @RI[i] @RL[i] @RO1[i] @RO2[i] @RP[i]
.SAVE @C1[p] @C2[p] @DC[p] @DE[p] @DLN[p] @DLP[p] @DP[p] @GA[p] @GCM[p] @HLIM[p]
.SAVE @IEE[p] @Q1[p] @Q2[p] @R2[p] @RC1[p] @RC2[p] @RE1[p] @RE2[p] @REE[p] @RF[p]
.SAVE @RI[p] @RL[p] @RO1[p] @RO2[p] @RP[p] @VB[p] @VC[p] @Vcc[p] @VE[p] @Vee[p]
.SAVE @VHLIM[p] @Vin[p] @VLN[p] @VLP[p]

*PLOT TRAN -1 1 A=@GCM[p] A=INPUT A=OUT A=@R2[i] A=@RF[i] A=@VIN[p]
*PLOT OP -1 1 A=@GCM[p] A=INPUT A=OUT A=@R2[i] A=@RF[i] A=@VIN[p]

*Selected Circuit Analyses:
.TRAN 2.5E-6 0.0005 0 2.5E-6
.OP

*Models and Subcircuit:
.MODEL 1N914 D(IS=7.075E-9 RS=0.78 N=1.95 TT=7.2E-9 CJO=4E-12 VJ=0.657 M=0.4
+ BV=100 IBV=0.0001 )

.MODEL 2N2222A NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11 NE=2 BR=4
+ VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11 TF=3.97E-10 CJC=1.52E-11
+ TR=8.5E-8 XTB=1.5 )

.END
